US06251926B1
Lithium hydroxide monohydrate (159 mg) was added to a solution of ethyl Z-8-[4-(5-methyl-2-phenyl4-oxazolylmethoxy)benzyloxyimino]-8-phenyloctanoate (340 mg) in tetrahydrofuran (6 ml)-water (4 ml)-methanol (4 ml) and stirred at room temperature for 1 hour. 1N hydrochloric acid (3.8 ml) was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was recrystallized from ethyl acetate-hexane to obtain Z-8-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-8-phenyloctanoic acid (293 mg, yield 91%) as colorless crystals. m.p. 88-89° C.

reactant | Lithium hydroxide monohydrate | 159 mg | O.[OH-].[Li+]
reactant | ethyl Z-8-[4-(5-methyl-2-phenyl4-oxazolylmethoxy)benzyloxyimino]-8-phenyloctanoate | 340 mg | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CO\N=C(\CCCCCCC(=O)OCC)/C2=CC=CC=C2)C=C1 | C34H38N2O5
reactant | water | 4 ml | O | H2O
reactant | hydrochloric acid | 1N, 3.8 ml | Cl | ClH
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
solvent | methanol | 4 ml | CO | CH4O
product | Z-8-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxyimino]-8-phenyloctanoic acid | 293 mg, yield 91% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(CO\N=C(\CCCCCCC(=O)O)/C2=CC=CC=C2)C=C1 | C32H34N2O5
